* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\AMP\Amp05op.asc
Vs1 Vpp 0 {Vs}
Vs2 0 Vnn {Vs}
RL o 0 {RL}
V1 1 0 {V1}
XU1 pos neg Vpp Vnn o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 0 neg {R1}
R2 neg o {R2}
R3 1 pos {R1}
R4 pos 0 {R2}
.param Vs=15 V1=1 R1=2.7k R2=3.3k RL=10k
.op
.meas G param V(o)/V(1)
.lib UniversalOpAmp2.lib
.backanno
.end
